Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: OTOLARYNGOLOGY
 
Allergies: 
mushrooms
 
Attending: ___.
 
Chief Complaint:
Occipital/posterior neck mass
 
Major Surgical or Invasive Procedure:
___ - excision of posterior neck mass by Dr. ___
 
___ of Present Illness:
It was a pleasure to meet Mr. ___ in consultation on 
___.  He is a ___ male who has a 
longstanding history of a connective tissue mass in the 
suboccipital region of the posterior neck.  He feels that this 
was recently changed to become more painful.  Given the 
enlargement, he is concerned about whether this remains benign.  
He has never had any surgery on this prior to this.  He denies 
any dysphagia or odynophagia.  He is a former smoker and drinks 
alcohol only socially.

 
Past Medical History:
Past Medical History:
1.  Allergic rhinitis.
2.  PPD positive.
3.  Reactive airway disease.
4.  Hypercholesterolemia.
5.  Lung nodule.
6.  Lumbar radiculopathy.
7.  Hypertension.
8.  Impaired fasting glucose.
9.  Colon polyps.

PAST SURGICAL HISTORY:
1.  Colonoscopy with excision of hyperplastic polyps and adenoma
with high-grade dysplasia.
2.  Hernia repair in ___.

 
Social History:
___
Family History:
Diabetes, migraines, respiratory disease, heart disease, 
bleeding disorders, and cancer.

 
Physical Exam:
General Appearance:  He is a well-appearing male in no acute
distress.
Neurologic Evaluation:  He is awake, alert, and oriented x3. 
Cranial nerves were intact.  Airway:  There are no signs of
obstruction.  Facial Region:  There was no evidence of any
swelling, tenderness, mass, or adenopathy.
Suboccipital Region:  There is a 7 cm connective tissue mass in
the base of the posterior neck in the suboccipital region.  This
palpably feels like a lipoma, but underlying cystic lesion 
cannot
be ruled out.  There were no other masses identified.  Neck: 
There was no palpable mass or adenopathy.  There was no palpable
thyroid nodule.  Transoral Exam:  I found no evidence of any
chronic inflammatory or neoplastic changes affecting the oral
cavity or the visible oropharynx.  The airway was symmetric and
open.  The palate elevated and the tongue protruded normally.
Vital Signs:  Blood pressure 131/87, pulse 97, weight 223 
pounds,
height 67 inches, BMI 34.9, temperature 97 degrees, oxygen
saturation 95% on room air.  Distress score 0.  Pain score is 0. 


Discharge Exam:
Gen: Sitting comfortably in no acute distress
CV: Regular rate
Lungs: breathing unlabored with no evidence of stridor, stertor, 
or respiratory distress
Abd: soft, non-tender
Extremties: warm and pink
HEENT: incision C/D/I with staples in place, neck soft and flat, 
JP serous prior to discontinuing. 

 
Pertinent Results:
EXAMINATION:  MRI SOFT TISSUE NECK, W/O AND W/CONTRAST 
FINDINGS:  There is a 5.2 x 2.0 x 3.4 cm (TRV, AP, CC; series 6, 
image 15 and series 2, image 16) subcutaneous fat intensity mass 
without significant enhancement demonstrating a few thin 
septations compatible with a lipoma. 
  
There is no cervical lymphadenopathy by imaging  criteria. The 
visualized salivary glands are unremarkable. The aerodigestive 
tract is also unremarkable. There is no abnormal enhancement. 
Limited evaluation of brain demonstrates no abnormalities. There 
is increase retention cyst in the right maxillary sinus. 
  
Multilevel cervical spondylosis is noted. 
  
IMPRESSION:  
Findings compatible with a 5 cm lipoma in the occipital 
subcutaneous tissues. 
  

 
Brief Hospital Course:
The patient tolerated the procedure without intra-operative 
complications. Please refer to the operative note for full 
operative detail.  The patient was extubated in the OR and 
transferred to the PACU in stable condition. The patient 
initially recovered in the PACU before being transferred to the 
floor in stable condition. His pain was well controlled on 
parental narcotics.  His diet was slowly advanced on POD 0 and 
on day of discharge he was tolerating a regular diet.  The 
patient's neck drain was discontinued on POD2 after drian output 
had appropiately tapered. Exam upon d/c was unremarkable.  The 
remainder of the hospital course was relatively unremarkable, 
and pt was discharged in stable condition, ambulating and 
voiding independently, and with adequate pain control.  Pt was 
given explicit instructions to follow-up in clinic with Dr. 
___ PCP ___ ___ days. Pt was given detailed 
discharge instruction outlining wound care, activity, diet, 
follow up and the appropriate medication scripts.
 
Medications on Admission:
metoprolol, simvastatin, loratadine
 
Discharge Medications:
1. Loratadine 10 mg PO QAM:PRN allergies 
2. Metoprolol Succinate XL 50 mg PO DAILY 
3. Simvastatin 10 mg PO QPM 
4. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
posterior neck lipoma s/p excision
 
Discharge Condition:
stable
 
Discharge Instructions:
You were in the hospital for neck surgery to remove a mass in 
the back of your your neck.  It is normal to feel tired or 
washed out after surgery. Rest is important and will help you 
feel better. Walking is also important. It will help prevent 
problems and help you feel stronger and have more energy.  Just 
remember to pace yourself and rest when you feel tired.

Follow these important instructions below: 
  
What medications do I need to take?
-Take your pain medicine the way your doctor tells you to. 
•Do not drink alcohol, drive, or use machinery while you are 
taking narcotic pain medicine.
•As your pain lessens, decrease the amount of pain medicine you 
are taking.
-Narcotic pain medicine can cause constipation. To make it 
easier to have a bowel movement:
•Drink extra water and other fluids like juice, tea, and broth.
•Take a stool softener like docusate.  Docusate is also called 
Colace. You can buy it over the counter.
-Resume all of your home medications unless advised otherwise.

What activities am I allowed at home?
-Walking is encouraged. 
-Do not do any strenuous exercise like aerobics, running or 
weight lifting until your surgeon says it is ok.
-Do not lift more than 10 pounds for ___ weeks. Ten pounds is as 
heavy as a gallon of milk. 

How do I care for my incisions?
-It is ok to leave your incisions uncovered.  You may also cover 
them with dry gauze if your incisions are draining or to protect 
them from irritation.
-Do not shower or get wound wet for 48 hours after drain is 
removed. After this you may shower normally. Please use 
tegaderms over drain incision while showering. Do not scrub your 
incision.  Gently wash with soapy water and pat wound dry 
afterwards.   
Follow up information
-Please go to your scheduled follow up appointment with your 
surgeon.
-Please follow up with your primary care physician ___ ___ 
weeks for a post-operative follow up.
-Call your surgeon if you have any questions.  During business 
hours, call the clinic:
•Dr. ___ ___
•If after hours or on the weekend, call the hospital operator 
at ___ and ask to page the ENT resident on call.
-Call your surgeon or go to the nearest emergency room if you 
have fevers > ___ F, if your wound appears red, hot, painful or 
swollen, if your wound opens, or for anything else that is 
troubling you.
 

 
Followup Instructions:
___